US04536578
1-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]-4-(2-pyridyl)piperazine dihydrochloride
To 30 ml of dry dimethylformamide was added 2.45 g of 1-(2-pyridyl)piperazine, 3.4 g of 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole, 8.0 g of sodium bicarbonate, and a few crystals of potassium iodide. The mixture was stirred at 100° C. for one and one-half hrs, filtered, the filtrate was evaporated to an oil. The oil was stirred with 100 ml water for five mins and extracted with ether. The ether extract was washed with water (2×), saturated sodium chloride and dried over anhydrous magnesium sulfate. After filtering, the solvent was evaporated to an oil, which was dissolved in ether, and converted to a salt by treatment with ethereal hydrogen chloride. The salt was recrystallized from ethyl acetate/methanol/ether to yield 3.0 g (48%) of product. Two recrystallizations from ethyl acetate/methanol/ether gave the analytical sample mp 235°≥240° C. (dec).

reactant | 1-(2-pyridyl)piperazine | 2.45 g | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole | 3.4 g | ClCCCC1=NOC2=C1C=CC(=C2)F | C10H9ClFNO
reactant | sodium bicarbonate | 8.0 g | C([O-])(O)=O.[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]-4-(2-pyridyl)piperazine dihydrochloride | 3.0 g, 48% | Cl.Cl.FC1=CC2=C(C(=NO2)CCCN2CCN(CC2)C2=NC=CC=C2)C=C1 | InChI=1S/C19H21FN4O.2ClH/c20-15-6-7-16-17(22-25-18(16)14-15)4-3-9-23-10-12-24(13-11-23)19-5-1-2-8-21-19;;/h1-2,5-8,14H,3-4,9-13H2;2*1H
